US04006180
A stirred suspension of (1,3-dioxo-2-ethyl-4,5-dimethyl-6-indanyloxy)acetic acid (5.52 g., 0.02 mole) in water (200 ml.) is cooled to 5° C. and treated with a solution of potassium borohydride (4.0 g., 0.075 mole) in water (200 ml.) during a 1 hour period. The reaction is stirred for one hour then acidified with hydrochloric acid affording (1,3-dihydroxy-2-ethyl-4,5-dimethyl-6-indanyloxy)acetic acid.

reactant | (1,3-dioxo-2-ethyl-4,5-dimethyl-6-indanyloxy)acetic acid | 0.02 mole, 5.52 g | O=C1C(C(C2=C(C(=C(C=C12)OCC(=O)O)C)C)=O)CC | C15H16O5
reactant | potassium borohydride | 0.075 mole, 4.0 g | [BH4-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | (1,3-dihydroxy-2-ethyl-4,5-dimethyl-6-indanyloxy)acetic acid | OC1C(C(C2=C(C(=C(C=C12)OCC(=O)O)C)C)O)CC | C15H20O5
